Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
T6 cord compression, NSTEMI

 
Major Surgical or Invasive Procedure:
T4-T7 Laminectomy
 
History of Present Illness:
___ year old man with severe COPD on 3L home O2, HTN, HL, 
osteoporosis status post compression fractures and 
vertebrolplasty T11-L1 presented. To ___ earlier 
today complaining of abdominal, back, chest pain starting this 
morning, very excruciating that he could not talk. CTA chest and 
CT of his abdomen was done which was negative for any aortic 
dissection, or any intra-abdominal pathology, and patient began 
complaining of severe leg weakness and numbness. Apparently this 
leg weakness began at 10 AM. He also complains of urinary 
retention and had no rectal tone.  At this point, troponin 
returned at .3 ___epressions.  Emergent MRI without 
contrast done at ___ showed acute T6 fracture with likely 
retropulsion versus epidural hematoma compressing the cord at 
that level. 

ED Course (labs, imaging, interventions, consults): 
- Initial Vitals/Trigger: 97.7 68 150/81 18 96% 4L  
EKG: His ECGs revealed RBBB and inferior Q waves (old per prior 
reports no images available) and 2mm ST depressions V4-V6 
(unclear if old or new). Given the ST changes and positive 
troponin, cards was consulted, recommended aspirin if cannot get 
heparin in the setting of epidural hematoma. 
Neurosurg: Looks like he may have mass compressing the spinal 
cord.  Needs contrast MRI, patient is likely permanently 
paraplegic, they will review the stat images, but have explained 
to patient that his likelihood of benefiting from emergent 
surgery is minimal. Does NOT recommend heparin due to 
possibility of epidural hematoma.
.
Admission Vitals: 75 120/50 14 98% 2L NC, patient chest pain 
free at the time of admission.  He is being admitted to the MICU 
for neuro checks and relative instability.
.  
On arrival to the MICU, patient complaining of severe ___ back 
pain which diminished with 1 mg IV dilaudid.  

 
Past Medical History:
Severe COPD with llongstanding steroid use & on home O2 3L NC  
asthma  
osteoporosis with compression Fx's & vertebroplasty (T11-L1)  
CAD with multivessel disease (last cath ___ with 
non-intervenable three vessel disease and deemed not a surgical 
candidate ___ COPD)  
HTN  
hyperlipidemia  
eczema  
stroke with no residual deficit  
renal cyst  
OA  
R sided musculoskeletal back pain  
hyponatremia possibly d/t SIADH (chronic in nature)  
PAST SURGICAL HISTORY  
T11-L1 vertebroplasty,  
hernia repair x2  

 
Social History:
___
Family History:
NC 

 
Physical Exam:
ADMISSION EXAM
75 120/50 14 98% 2L NC
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred, finger-to-nose intact 
.
DISCHARGE EXAM
General: Awake, alert, NAD, breathing more comfortably
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: supple, JVP not elevated, no LAD  
CV: Regular rate/rhythm, S1/S2 are difficult to hear well, no 
obvious murmur 
Lungs: Wheezes and coarse breath sounds throughout, but improved 
air movement
Abdomen: soft, distended (likely body habitus), mildly 
tympanitic non-tender, movement with marked accessory muscle 
use, easily reducible umbilical hernia
GU: + foley  
Ext: Warm, well perfused, 2+ DP pulses, mild peripheral edema of 
legs bilaterally (pneumoboots leaving indentations but limited 
further pitting), back incision well approximated, 
non-erythematous
Neuro: Moves all extremities, A+Ox3

 
Pertinent Results:
ADMISSION LABS
___ 07:50PM URINE  MUCOUS-RARE
___ 07:50PM URINE  RBC-0 WBC-6* BACTERIA-NONE YEAST-NONE 
EPI-0
___ 07:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 LEUK-TR
___ 07:50PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:50PM   ___ PTT-25.1 ___
___ 07:50PM   PLT COUNT-303
___ 07:50PM   NEUTS-85.6* LYMPHS-5.9* MONOS-7.3 EOS-0.3 
BASOS-0.8
___ 07:50PM   WBC-10.4 RBC-3.31* HGB-11.1* HCT-33.2* 
MCV-100* MCH-33.6* MCHC-33.5 RDW-13.8
___ 07:50PM   CK-MB-5
___ 07:50PM   CK(CPK)-81
___ 07:50PM   estGFR-Using this
___ 07:50PM   GLUCOSE-73 UREA N-26* CREAT-0.9 SODIUM-136 
POTASSIUM-4.5 CHLORIDE-96 TOTAL CO2-32 ANION GAP-13
.
_________________CKMB|Troponin 
___ 08:36       | 0.21*
___ 16:15    4| 0.25*1 
___ 02:52    3| 0.20*1 
___ 16:29    4| 0.19*1 
___ 09:49    5| 0.19*1 
___ 02:35    5| 0.19*1 
___ 19:45    6| 0.21*1 
___ 14:30    5| 0.20*1 
___ 05:10    5| 0.14*1 
___ 17:58    6| 0.14*1 
___ 03:40    4| 0.20*1 
___ 20:36      0.21*2 
.
DISCHARGE LABS
___ 03:00AM BLOOD WBC-7.5 RBC-3.03* Hgb-9.3* Hct-28.8* 
MCV-95 MCH-30.6 MCHC-32.2 RDW-14.1 Plt ___
___ 03:00AM BLOOD Glucose-97 UreaN-26* Creat-1.1 Na-133 
K-3.9 Cl-93* HCO3-34* AnGap-10
.
MRI Spine Non contrast: 
1. New T6  compression deformity with marrow edema probably 
extending into the pedicles  although image quality is 
suboptimal due to patient motion. Apparent space  occupying 
structure, possibly hemorrhage tracking from the T6 vertebral 
level  to the T4 vertebral level and exerting posterior mass 
effect on the cord but preserved in some of the posterior 
epidural fat. Preliminary findings discussed  
with Dr. ___.
2. Acute to subacute mild compression deformities of the L2 and  

L3 vertebrae without central canal or neural foraminal 
compromise. New L4  compression deformity since ___ but 
without evidence of marrow edema  suggesting that this fracture 
is older.  
.
MR ___ &W/O CONTRAST Study Date of ___ 9:53 AM 
1. Compression fracture identified at T6 vertebral body with low 
signal 
intensity, no frank evidence of retropulsion is identified. This 
fracture is associated with an epidural collection, likely 
consistent with an epidural hematoma extending from T5 through 
T7 level, and impinging the spinal cord as described above.  
2. Multiple chronic compression fractures are noted at T7, T9, 
T11, T12, and L1 levels as described above. Associated 
multilevel degenerative changes. 
.
EKGs
___
EKG:  NSR with RBBB, LAFB, interatrial conduction disease and 
2mm STD V4-V6. QW III, AVF. No prior in our system for 
comparison but reports from prior at ___ (images not 
available) have RBBB and inferior Q waves.
.
___
Sinus rhythm with premature atrial contractions. First degree 
A-V block. 
Right bundle-branch block. Inferior myocardial infarction of 
indeterminate 
age and lateral-apical ST segment depressions are suggestive of 
myocardial 
ischemia. Compared to the previous tracing of ___ premature 
atrial 
contractions are new and the lateral ST segment changes are new. 

.
___
Sinus rhythm. Prior inferolateral myocardial infarction. Right 
bundle-branch block. Ongoing ST segment elevation inferiorly 
with more prominent ST segment depression in leads I and aVL. 
There is variation in precordial lead placement in the lateral 
leads. The ST-T wave changes are consistent with ongoing 
ischemic process. Rule out myocardial infarction. Followup and 
clinical correlation are suggested. 
.
___
Sinus rhythm with slowing of the rate as compared with previous 
tracing 
of ___. There is continued evidence of active inferolateral 
ischemic 
process and continuing right bundle-branch block. Rule out 
myocardial 
infarction. Followup and clinical correlation are suggested. 
.
___
Sinus rhythm. Right bundle-branch block. Probable old inferior 
myocardial 
infarction. No change compared to earlier tracings of ___ and 
___. 
.
ECHO ___
The left atrium is elongated. The right atrium is moderately 
dilated. There is mild symmetric left ventricular hypertrophy. 
The left ventricular cavity size is normal. There is mild 
regional left ventricular systolic dysfunction with 55%. Right 
ventricular chamber size and free wall motion are normal. The 
number of aortic valve leaflets cannot be determined. There is 
no aortic valve stenosis. No aortic regurgitation is seen. The 
mitral valve leaflets are moderately thickened. No mitral 
regurgitation is seen. There is an anterior space which most 
likely represents a prominent fat pad. 
.
IMPRESSION: Suboptimal image quality. Preserved biventricular 
function. Regional wall motion abnormalities consistent with CAD 
(inferior ischemia). No significant valvular abnormality. 
.
CXR ___
In comparison with the study of ___, there are continued low 
lung 
volumes. Areas of opacification at the bases are consistent with 
atelectasis and effusion. There may be minimal asymmetric 
elevation of pulmonary venous pressure, more prominent on the 
right. No pneumothorax is identified. 
.
CXR ___
In comparison with the study of ___, there are continued low 
lung 
volumes that may account for much of the prominence of the 
transverse diameter of the heart. There is increasing 
opacification at both bases with silhouetting of the 
hemidiaphragms. This is consistent with pleural effusions and 
compressive atelectasis. However, in the appropriate clinical 
setting, supervening pneumonia could not be excluded. 
.
CXR ___
FINDINGS: Since prior radiograph acquired over the last 24 
hours, there has not been no significant changes in the lung. 
Bibasal mild atelectasis is similar. Upper lungs are clear, and 
there are no lung opacities concerning for pneumonia or 
aspiration or new areas of atelectasis. Heart size, mediastinal 
and hilar contours are normal. There is no pleural effusion. 

 
Brief Hospital Course:
___ year old man with severe COPD on 3L home O2, HTN, HL, 
osteoporosis status post compression fractures and 
vertebrolplasty T11-L1 now with new T4-T6 compression fracture 
causing impingment and loss of motor and sensation below that 
level now s/p laminectomy.
.
#T6 Vertebral fracture with spinal cord compression: Presented 
to an outside hospital with paralysis and back pain. An MRI 
showed concern for epidural hematoma versus T6 fracture with 
retropulsion vs tumor/mass in the Non-con MRI and he was 
transferred here. MRI with contrast here showed compression 
fracture identified at T6 vertebral body with low signal 
intensity though to be blood clot versus tumor compressing the 
spinal cord. He was started on steroids and neurosurgery then 
took the patient to the OR and performed a T4-T6 laminectomy. 
Post operatively he regained strength and sensastion in both 
lower extremities. Final pathology ruled out malignacy. His 
steroids were weaned down to his home dose.
.
#DEMAND CARDIAC ISCHEMIA: Patient has a history of CAD with 
multivessel disease (last cath ___ with non-intervenable three 
vessel disease and deemed not a surgical candidate ___ COPD). He 
developed new ST depressions V4-V6 and elevated troponins. 
Cardiology was consulted who believed that his EKG changes and 
tropnonins were related to demand ischemia ___. 
Given concern for epidural hematoma he was not started on plavix 
or heparin iniitally. We continued his home regimen of beta 
blocker and ace inhibitor. His atorvasattin was increased to 
80mg daily. His aspirin was increased to 325 mg. Plavix was 
started on post operative day 10 (___) per neurosurgery and 
cardiology recommendations.
.
#COPD/PNA/Obstructive sleep apnea: Patient has severe COPD on 3L 
NC at baseline. We continued his advair, Fluticasone, 
montelukast, albuterol, spiriva, and IV steroids were given for 
cord compression He was intubated for the surgery and was noted 
to be difficult to extubate. After extubation he repeatedly had 
episodes of of acute SOB and hypoxia requiring Bi-PAP. He was 
treated with nebulizers, diuresis, steroids, as well as 
vanc/zosyn/azithromycin for hospital aqcuired PNA (last day 
___. He is also highly likely to have obstructive sleep 
apnea so his BiPAP/CPAP was used at nights. He will need a sleep 
study and CPAP as an outpatient.
.
#HYPERTENSION: We continued home lisinopril, metoprolol and 
Imdur. He was diuresed for his respiratory distress and his home 
furosemide 20 mg PO daily was restarted on discharge. His 
diltiazem was held for low blood pressures. 
.
Transitional Issues:
Needs Sleep study formally
Needs CPAP at night for sleep apnea
Needs follow up with his pulmonologist and cardiologist
 
Medications on Admission:
lisinopril (Prinivil) - 20mg - PO (By mouth) - DAILY,  
Fosamax - 70mg - PO (By mouth) - once a week,  
Calcitonin nasal spray - 200 units (1 spray each nostril) - NAS 
DAILY,  
Advair inhaler 500 - 1 puff - INH (Inhalation) - BID,  
Flonase - INH (Inhalation) - QHS,  
Flovent inhaler 110 mcg - 2 puffs - INH (Inhalation) - BID,  
Albuterol neb 2.5 mg - INH (Inhalation) - QID,  
Pro air inhaler 90 mcg - INH (Inhalation) - PRN,  
Singulair - 10mg - PO (By mouth) - DAILY,  
Spiriva inhaler 18 mcg - 1 capsule - INH (Inhalation) - DAILY,  
Diltiazem XR - 180mg - PO (By mouth) - DAILY,  
Metoprolol succinate ER - 150mg - PO (By mouth) - DAILY,  
Isosorbide mononitrate (Imdur) - 20mg - PO (By mouth) - DAILY,  
Plavix - 75mg - PO (By mouth) - DAILY,  
Ecotrin (ASA) - 81mg - PO (By mouth) - DAILY,  
gabapentin (Neurontin) - 100mg - PO (By mouth) - PRN,  
Hydromorphone - 4mg - PO (By mouth) - Q4H,  
ibuprofen (Advil) - 400mg - PO (By mouth) - Q4H (in between 
Hydromorphone),  
hydroxyzine (Atarax) - 50 mg - PO (By mouth) - PRN,  
Zyrtec - 10mg - PO (By mouth) - DAILY,  
Nasonex - 2 puffs - NAS (Nasal) - QHS,  
Atorvastatin (Lipitor) - 40mg - PO (By mouth) - QPM,  
Protopic ointment FUJ 0.1 - TOP (Topical) - BIDP,  
Econazole topical 1 - to feet - TOP (Topical) - DAILY,  
Mupirocin topical 2 - TOP (Topical) - BID,  
Triamcinolone 0.1 - TOP (Topical),  
Clobetasol proprionate (Olux) foam 0.05 - TOP (Topical),  
Olux - to scalp - TOP (Topical),  
Colace - 100-200 mg - PO (By mouth) - DAILY,  
senna (Ex-lax) - ___ tabs - PO (By mouth) - DAILY,  
Calcium - 750mg/ 2tabs - PO (By mouth) - BID  
Multivitamin - 1tab - PO (By mouth) - DAILY,  
Fish oil - 1000mg/2 tabs - PO (By mouth) - BID,  
Glucosamine/chondroitin - 1500mg/2 tabs - PO (By mouth) - BID,  
Tylenol - 650mg - PO (By mouth) - PRN,  
Vitamin D - 400mg - PO (By mouth) - DAILY,  
Zantac - PO (By mouth)  
Prednisone taper - taper, until reaches 20 mg.  
Miralax - 17 gms - PO (By mouth) - DAILY,  
Oxygen - 2L during the day, 3L at night  

 
Discharge Medications:
1. heparin, porcine (PF) 10 unit/mL Syringe Sig: Two (2) ML 
Intravenous PRN (as needed) as needed for line flush.  
2. calcitonin (salmon) 200 unit/actuation Spray, Non-Aerosol 
Sig: One (1) inhalation Nasal DAILY (Daily).  
3. fluticasone 50 mcg/actuation Spray, Suspension Sig: One (1) 
Spray Nasal HS (at bedtime).  
4. fluticasone 110 mcg/actuation Aerosol Sig: Two (2) Puff 
Inhalation BID (2 times a day).  
5. Advair Diskus 500-50 mcg/dose Disk with Device Sig: One (1) 
inhalation Inhalation twice a day.  
6. Fosamax 70 mg Tablet Sig: One (1) Tablet PO once a week.  
7. lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. albuterol sulfate 90 mcg/actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q4H (every 4 hours) as needed for wheezing. 
 
9. montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. cetirizine 10 mg Tablet Sig: One (1) Tablet PO once a day.  
11. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day): Hold for loose stools. .  
12. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation: Hold for loose stools. .  
13. calcium carbonate 200 mg calcium (500 mg) Tablet, Chewable 
Sig: Three (3) Tablet, Chewable PO BID (2 times a day): Total 
dose 1500 mg twice a day. .  
14. cholecalciferol (vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
15. Ecotrin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
16. omega-3 fatty acids     Capsule Sig: Two (2) Capsule PO BID 
(2 times a day): Dose = ___ mg twice a day. .  
17. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
18. prednisone 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
19. Spiriva with HandiHaler 18 mcg Capsule, w/Inhalation Device 
Sig: One (1) inhalation Inhalation once a day.  
20. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO TID 
(3 times a day).  
21. isosorbide mononitrate 30 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
22. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO once a day.  

23. gabapentin 100 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
24. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1) nebulization Inhalation Q4H (every 4 
hours).  
25. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
26. polyethylene glycol 3350 17 gram Powder in Packet Sig: One 
(1) Powder in Packet PO DAILY (Daily).  
27. mupirocin calcium 2 % Cream Sig: One (1) Appl Topical twice 
a day as needed for rash.  
28. triamcinolone acetonide 0.1 % Ointment Sig: One (1) Appl 
Topical BID (2 times a day) as needed for rash.  
29. hydroxyzine HCl 25 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours) as needed for anxiety.  
30. econazole 1 % Cream Sig: One (1) application Topical once a 
day as needed for to feet.  
31. Protopic 0.1 % Ointment Sig: One (1) application Topical 
twice a day.  
32. Sodium Chloride 0.9%  Flush 3 mL IV Q8H:PRN line flush 
Peripheral line: Flush with 3 mL Normal Saline every 8 hours and 
PRN. 
33. Zantac 150 mg Tablet Sig: One (1) Tablet PO twice a day.  
34. clobetasol 0.05 % Foam Sig: One (1) application Topical once 
a day: As directed by your prescribing physician.  
35. ipratropium bromide 0.02 % Solution Sig: One (1) 
nebulization Inhalation every four (4) hours as needed for 
shortness of breath or wheezing.  
36. Xolair 150 mg Recon Soln Sig: One (1) injection Subcutaneous 
every two weeks: As directed by your prescribing physician. .  
37. furosemide 20 mg Tablet Sig: One (1) Tablet PO once a day.  
38. sulfamethoxazole-trimethoprim 800-160 mg Tablet Sig: One (1) 
Tablet PO 3X/WEEK (___).  
39. glucosamine-chondroitin  Oral
40. acetaminophen 650 mg Tablet Sig: One (1) Tablet PO every six 
(6) hours as needed for pain: Do not take with other 
Acetaminophen-containing products. Do not drink alcohol while on 
this medication. .  
41. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for back pain.  
42. olanzapine 2.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day) as needed for Anxiety.  
43. Nasonex ___ mcg/actuation Spray, Non-Aerosol Sig: Two (2)  
Nasal at bedtime.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
T6 vertebral body compression fracture
T4-7 Laminectomy
Demand Cardiac Ischemia
Severe COPD
Pneumonia
.
Secondary Diagnoses:
COPD
Coronoary artery disease
Hypertension
Osteoprosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair (working with ___ following surgery).

 
Discharge Instructions:
Mr. ___: 
. 
You were admitted to ___ for 
concerns of spinal cord compression. We performed an MRI which 
showed you had a fracture in your thoracic vertebra and our 
neurosurgeons performed a laminectomy to correct the fracture. 
The pathology did not show any evidence of cancer. Following 
your surgery, you developed respiratory distress and were 
admitted to the medical intensive care unit. It was felt that 
your respiratory distress was due to problems with your lungs 
and your heart. Multiple medication changes were made to your 
lung and cardiac medications. It was also felt that you have a 
condition called sleep apnea and were started on CPAP/BiPAP at 
night to support your breathing. Although you were started on 
CPAP/BiPAP during this hospitalization, you will need to have a 
formal sleep study to begin this therapy at home. 
. 
**Your Plavix (Clopidogrel) was stopped around the time of your 
surgery. You resumed taking Plavix on ___. Resume taking 75 
mg by mouth daily on ___. Please see below for additional 
medication changes. **
. 
The following changes were made to your medications: 

1. The frequency of your Albuterol nebulizations was increased 
from every 6 hours (four times a day) to every 4 hours. 

2. Your Aspirin dose was increased from 81 mg by mouth daily to 
325 mg by mouth daily. 

3. Your Metoprolol succinate 150 mg daily was changed to a short 
acting formulation called Metoprolol tartrate as we were 
attempting to optimize the dose of this medication. You are 
being discharged on Metoprolol tartrate 50 mg by mouth three 
times a day. Please follow up with your cardiologist regarding 
further management of this medication. 

4. STOP taking Diltiazem XR 180 mg by mouth daily. Your blood 
pressure was slightly low throughout this hospitalization so 
Diltiazem was stopped. 

5. Your Isosorbide mononitrate was increased from 20 mg by mouth 
daily to 30 mg by mouth daily. 

6. Your Atorvastatin was increased from 40 mg by mouth daily to 
80 mg by mouth daily. 

7. Start using Ipratropium bromide 0.02% solultion for 
nebulization every four hours as needed for shortness of breath. 


8. Start taking Sulfamethoxazole-Trimethoprim 800-160mg by mouth 
every ___ and ___. This medication is to 
prevent a particular lung infection while you are on Prednisone. 


9. Please follow instructions from your rehab facility at 
discharge regarding pain medications (at the time of discharge 
from ___, your home hydromorphone and ibuprofen were held and 
you were receiving ___ mg oxycodone every 3 hours as needed).

10. Please follow instructions from your rehab facility at 
discharge regarding supplemental oxygen use at home.
 
Followup Instructions:
___